US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.385 g, 0.717 mmol) and diethylamine (2.0 mL, 19 mmol) in THF (10 mL) was stirred at 80° C. in a sealed tube for 16.5 hours. After cooling to ambient temperature, the reaction mixture was solvent evaporated. The residue was partitioned in chloroform and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered, concentrated and dried at 80° C. in vacuo for 20 minutes to give diethyl-{2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine a clear amber gum (0.269 g, 85.7%). This was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried for 25 hours at 83° C. in vacuo to give the hydrochloride as a brown foam (0.253 g); Mass Spectrum (+EI, [M+H]+) m/z 438. 1HNMR (500 MHz, DMSO-d6): δ10.11-10.12 (br, 1H), 8.74 (d, 1H, J=8.66 Hz), 8.50-8.52 (m, 1H), 8.27 (d, 1H, J=8.29 Hz), 8.03-8.05 (m, 1H), 7.71-7.75 (m, 2H), 7.56-7.66 (m, 2H), 7.37 (d, 1H, J=2.20 Hz), 7.21 (dd, 1H, J=9.27 Hz and 2.32 Hz), 4.41-4.43 (m, 2H), 4.05 (s, 3H), 3.49-3.52 (m, 2H), 3.15-3.25 (m, 4H), 1.22-1.25 ppm (m, 6H).

reactant | toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.717 mmol, 0.385 g | CN1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H24N2O6S2
reactant | diethylamine | 19 mmol, 2.0 mL | C(C)NCC | C4H11N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | diethyl-{2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine | C(C)N(CCOC=1C=C2C(=NN(C2=CC1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12)CC | C24H27N3O3S
